US06969711B2
Acetyl nitrate obtained by mixing acetyl anhydride (1.12 g, 11 mmol) with fuming nitric acid (693 mg, 11 mmol) at 0° C. was dropped into a solution of 4-chloro-2-isopropyl-5-methylphenol (1.84 g, 10 mmol) in acetonitrile (20 ml) at 0° C. followed by stirring for 50 minutes. The reaction solution was diluted with water and extracted with ether. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (80 g of silica gel; developing solvent, hexane:methylene chloride=30:1→10:1) to provide 1.88 g (yield 83%) of 4-chloro-6-isopropyl-3-methyl-2-nitrophenol as pale yellow crystals.

reactant | nitric acid | 11 mmol, 693 mg | [N+](=O)(O)[O-] | HNO3
reactant | 4-chloro-2-isopropyl-5-methylphenol | 10 mmol, 1.84 g | ClC1=CC(=C(C=C1C)O)C(C)C | C10H13ClO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-6-isopropyl-3-methyl-2-nitrophenol | 1.88 g, yield 83% | ClC1=C(C(=C(C(=C1)C(C)C)O)[N+](=O)[O-])C | C10H12ClNO3
